US09102622B2
N-[4-(3-Methyl-phenoxy)-butyl]saccharin (83.6).
The title compound was synthesized analogously to 83.8 (see experimental below), using a solution of saccharin (92 mg, 0.5 mmol) in anhydrous DMF (4 mL), NaH (60% dispersion in mineral oil, 21 mg, 0.52 mmol) and a solution of 1-(4-bromobutoxy)-3-methylbenzene (146 mg, 0.6 mmol) in DMF (anhydrous, 1 mL). The crude product obtained after workup was purified by flash column chromatography on silica gel (25% ethyl acetate-petroleum ether) to give 83.6 as a viscous liquid in 55% yield (95 mg).

reactant | saccharin | 0.5 mmol, 92 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | NaH | 0.52 mmol, 21 mg | [H-].[Na+]
reactant | 1-(4-bromobutoxy)-3-methylbenzene | 0.6 mmol, 146 mg | BrCCCCOC1=CC(=CC=C1)C | C11H15BrO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[4-(3-Methyl-phenoxy)-butyl]saccharin | 55% yield | CC=1C=C(OCCCCN2S(=O)(=O)C3=CC=CC=C3C2=O)C=CC1 | C18H19NO4S
